US07524862B2
2.1d. 5-iodo-2-pyrrolidin-1-yl-1H-benzimidazole
0.48 g (1.8 mmol) of 5-bromo-2-pyrrolidin-1-yl-1H-benzimidazole and 34 mg (0.18 mmol) of CuI are placed in a round flask. The reaction vessel is flushed with argon. Then 0.54 g (3.6 mmol) of NaI, 32 mg (0.36 mmol) of dimethylenediamine, and 3 mL of 1,4-dioxane are added under argon. The reaction mixture is stirred for 14 hours at 110° C. Subsequently, the cooled reaction mixture is combined with concentrated ammonia solution, diluted with water, and the precipitate formed is filtered off. The solid is stirred with methanol and again filtered. Yield: 0.3 g (53% of theoretical); C11H12IN3 (M=313.13); calc.: molpeak (M+H)+: 314; found: molpeak (M)+: 314.

reactant | 5-bromo-2-pyrrolidin-1-yl-1H-benzimidazole | 1.8 mmol, 0.48 g | BrC1=CC2=C(NC(=N2)N2CCCC2)C=C1 | C11H12BrN3
reactant | NaI | 3.6 mmol, 0.54 g | [Na+].[I-]
reactant | dimethylenediamine | 0.36 mmol, 32 mg | NCCN | C2H8N2
reactant | ammonia | N | H3N
solvent | water | O | H2O
catalyst | CuI | 0.18 mmol, 34 mg | [Cu]I
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 5-iodo-2-pyrrolidin-1-yl-1H-benzimidazole | IC1=CC2=C(NC(=N2)N2CCCC2)C=C1 | C11H12IN3
